US05763439
Into 22 ml of an N,N-dimethylformamide solution of 2.17 g of 5-chloro-4-methoxymethylpyridazin-3-(2H)-one prepared in the above step (3), 0.55 g of sodium hydride (containing 40% of mineral oil) was added at room temperature. After the addition, the mixture was stirred for 30 minutes. Then, 2.12 g of methyl iodide was dropwise added thereto at a temperature of not higher than 20° C. After completion of the dropwise addition, the mixture was stirred at room temperature for one hour. After completion of the reaction, 70 ml of water and 4 ml of 10% hydrochloric acid were added to the reaction mixture, and the mixture was extracted with 70 ml of benzene. The benzene layer was dried over anhydrous sodium sulfate, and then the solvent was distilled off under reduced pressure. The residue was subjected to silica gel column chromatography, and from a fraction of n-hexane:ethyl acetate=3:1, 1.53 g of 5-chloro-2-methyl-4-methoxymethylpyridazin-3-(2H)-one having a melting point of from 47 to 49° C., was obtained.

reactant | 5-chloro-4-methoxymethylpyridazin-3-(2H)-one | 2.17 g | ClC1=C(C(NN=C1)=O)COC | C6H7ClN2O2
reactant | sodium hydride | 0.55 g | [H-].[Na+]
reactant | methyl iodide | 2.12 g | CI | CH3I
reactant | hydrochloric acid | 4 ml | Cl | ClH
solvent | water | 70 ml | O | H2O
solvent | N,N-dimethylformamide | 22 ml | CN(C=O)C | C3H7NO
product | 5-chloro-2-methyl-4-methoxymethylpyridazin-3-(2H)-one | 1.53 g | ClC1=C(C(N(N=C1)C)=O)COC | C7H9ClN2O2
